US07612067B2
Preparation of 3-(3-chloro-4-thiazol-2-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
Using a procedure analogous to Example 175, 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.25 g, 0.61 mmol), Reike® Zn (0.5 g/mL solution in THF, 1.6 mL, 1.21 mmol), 2-bromo-thiazole (0.11 mL, 1.21 mmol), and PdCl2(dppf) (0.022 g, 0.030 mmol) furnish the title compound (0.012 g, 0.29 mmol, 6.8%). 1H-NMR (CDCl3), δ 0.89 (t, J=7.5 Hz, 6H), 1.75-1.94 (m, 4H), 2.52 (s, 6H), 3.27-3.43 (m, 1H), 6.73 (s, 1H), 7.43 (d, J=3.3 Hz, 1H), 7.94 (d, J=3.3 Hz, 1H), 8.30 (s, 1H) ppm. LC/MS (m/z): calcd. for C20H21ClN4S2 (M+H)+: 417.1; found: 417.2.

reactant | 3-(4-bromo-3-chloro-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.61 mmol, 0.25 g | BrC=1C(=C(SC1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)Cl | C17H19BrClN3S
reactant | 2-bromo-thiazole | 1.21 mmol, 0.11 mL | BrC=1SC=CN1 | C3H2BrNS
catalyst | Zn | 1.21 mmol, 1.6 mL | [Zn] | Zn
catalyst | PdCl2(dppf) | 0.030 mmol, 0.022 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(3-chloro-4-thiazol-2-yl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.29 mmol, 0.012 g, 6.8% | ClC1=C(SC=C1C=1SC=CN1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C20H21ClN4S2
